US07105567B2
By the reaction and treatment in the same manner as in Preparation Example 1 using 2,4-dichlorobenzaldehyde (1.8 g) and 4-isopropylaniline (1.4 g) as starting materials, [(2,4-dichlorophenyl)methyl](4-isopropylphenyl)amine (2.7 g) was obtained.

reactant | 2,4-dichlorobenzaldehyde | 1.8 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | 4-isopropylaniline | 1.4 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | [(2,4-dichlorophenyl)methyl](4-isopropylphenyl)amine | 2.7 g | ClC1=C(C=CC(=C1)Cl)CNC1=CC=C(C=C1)C(C)C | C16H17Cl2N
